US04171441
A mixture of 28.2 g. of 7-methyl-1-isopropyl-4-phenyl-5,6,7,8-tetrahydro-2(1H) quinazolinone, 9.6 g. of sulfur, 10 gms of sodium hydroxide, 20 gms of calcium chloride and 200 mls of carbitol (2-[2-ethoxyethoxy]ethanol) is heated under a nitrogen blanket at 150° C. for 2 hours. The resulting mixture is then cooled to 65° C., 500 mls. of benzene added and the mixture cooled with stirring to 15° C. and the liquid phase decanted. The organic phase is washed with water and evaporated to obtain an oil which is dissolved in a mixture of 100 mls of benzene and 100 mls of 50% aqueous hydrochloric acid. The resulting mixture is stirred for one hour at room temperature, the phases separated and the acid phase treated with 50 mls of benzene. The acid phase is neutralized with 50% sodium hydroxide solution, extracted with 150 mls of benzene and the benzene extracts washed with water until neutral. After drying over sodium sulfate, the benzene solution is evaporated to obtain the crude product which is recrystallized from ethylacetate to obtain 1-isopropyl-4-phenyl-7-methyl-2[1H]quinazolinone, m.p. 141°-142° C.

reactant | 7-methyl-1-isopropyl-4-phenyl-5,6,7,8-tetrahydro-2(1H) quinazolinone | CC1CCC=2C(=NC(N(C2C1)C(C)C)=O)C1=CC=CC=C1 | C18H22N2O
reactant | sulfur | [S] | S
reactant | sodium hydroxide | 10 gms | [OH-].[Na+]
reactant | calcium chloride | 20 gms | [Cl-].[Ca+2].[Cl-]
reactant | carbitol | 200 mls | CCOCCOCCO | C6H14O3
solvent | benzene | 100 mls | C1=CC=CC=C1 | C6H6
solvent | hydrochloric acid | 100 mls | Cl | ClH
product | 1-isopropyl-4-phenyl-7-methyl-2[1H]quinazolinone | C(C)(C)N1C(N=C(C2=CC=C(C=C12)C)C1=CC=CC=C1)=O | C18H18N2O
